Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with a past medical
history on non-Hodgkin's lymphoma of the uterus and COPD who was
found to have hilar lymphadenopathy on routine CXR and was
referred for further management.

She presented for a routine follow up visit with her
pulmonologist Dr. ___ on ___. They mostly discussed her
chronic back pain and smoking cessation at that visit. He 
ordered
her for a routine CXR which she finally had on ___. Xray was
notable for hilar lymphadenopathy and extensive pulmonary
parenchymal abnormality with nodular and infiltrative 
components.
CT was recommended for further evaluation and she was directed 
to
the ED.

She reports that after her visit with Dr. ___ went out
for breakfast with a friend. She had eggs and bacon and shortly
after began feeling nauseous. The nausea has been persistent
since that time. She also has been eating very little because 
she
says that food does not taste right. In addition she reports
worsening of her chronic cough. Cough is productive of yellow
sputum. She also has some intermittent abdominal pain which she
associates with her frequent coughing. She denies any fevers or
night sweats at home. She does report weight loss although per
OMR weight appears relatively stable.

She was born and raised in the ___ area. Her parents were 
from
___. She has never traveled or lived ___. She worked as a
___. As far as she knows she was never exposed to anyone
with TB. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Non-Hodgkin's lymphoma of the uterus
COPD
Cardiomyopathy secondary to doxorubicin toxicity
HLD
HTN
Low back pain

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization. No family history of TB

 
Physical Exam:
DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress, very thin
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:51PM BLOOD WBC-22.9*# RBC-4.56 Hgb-13.2 Hct-39.0 
MCV-86 MCH-28.9 MCHC-33.8 RDW-13.1 RDWSD-40.9 Plt ___
___ 07:51PM BLOOD ___ PTT-27.5 ___
___ 07:51PM BLOOD Glucose-110* UreaN-10 Creat-0.5 Na-141 
K-3.5 Cl-97 HCO3-26 AnGap-18
___ 07:51PM BLOOD ALT-79* AST-72* LD(LDH)-283* AlkPhos-236* 
TotBili-0.4
___ 07:51PM BLOOD Albumin-3.5 Calcium-9.6 Phos-3.5 Mg-1.8

DISCHARGE LABS:
===============
___ 06:58AM BLOOD WBC-10.5* RBC-4.11 Hgb-12.0 Hct-35.9 
MCV-87 MCH-29.2 MCHC-33.4 RDW-13.5 RDWSD-42.9 Plt ___
___ 06:58AM BLOOD Plt ___
___ 06:58AM BLOOD Glucose-97 UreaN-8 Creat-0.6 Na-149* 
K-4.5 Cl-103 HCO3-26 AnGap-20*
___ 07:04AM BLOOD ALT-52* AST-30 AlkPhos-152* TotBili-0.3
___ 06:58AM BLOOD Calcium-9.2 Mg-1.9

IMAGING:
========
___ CXR:
Compared to chest radiographs since ___, most recently ___.  
Central adenopathy is new or increase consisting of both hila 
and
perhaps right paratracheal station. 
Patient has severe emphysema.  There is a new extensive 
pulmonary
abnormality which appears to have nodular and infiltrative,
peribronchovascular components.  It is difficult to say whether
there are genuine lung nodules or instead exudate is filling
pre-existing small lung spaces.  Heart is normal size and there
is no pleural effusion. 
Chest CT scanning might be helpful in determining whether new
soft tissue lung nodules are present indeed. 

___ CT Chest w/ Contrast:
1. Right hilar adenopathy, measuring up to 1.9 cm and subcarinal
adenopathy. 
2. Multiple areas of pulmonary consolidation, ground-glass
opacity bilaterally, located predominantly peripheral;
differential diagnosis inflammatory process or aspiration,
infection or malignancy not excluded. Moderate centrilobular
emphysema. 
3. Two nodules in the right lower lobe measure 1.1 cm and 0.6 
cm.
For incidentally detected multiple solid pulmonary nodules 
bigger
than 8mm, a CT follow-up in 3 to 6 months is recommended in a
low-risk patient, with an optional CT follow-up in 18 to 24
months. In a high-risk patient, both a CT follow-up in 3 to 6
months and in 18 to 24 months is recommended. 

___ CT a/p w/Contrast:
1. No lymphadenopathy in the abdomen or pelvis. 
2. No acute process within the abdomen or pelvis. 
3. Small right pleural effusion, increased compared to ___.  
Otherwise the lung bases appear similar to ___. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with a past medical 
history on non-Hodgkin's lymphoma of the uterus and COPD who was 
found to have hilar lymphadenopathy on routine CXR and was 
referred for further management.

# Hilar adenopathy:
# Pulmonary opacities:
# Leukocytosis:
# Likely community acquired pneumonia
Pt presented after a CXR obtained to evaluate a subacute 
worsening cough showed suspicious opacities and hilar 
adenopathy.  CT chest showed multiple areas of pulmonary 
consolidation, ground-glass opacities bilaterally, and R 
hilar/subcarinal adenopathy.  She was started on levaquin for 
treatment of CAP and induced sputum x3 was obtained.  AFB smears 
returned negative x3, cultures pending. ___ consulted and felt 
that pt's presentation was most likely c/w bacterial pna and 
suggested further w/u for aspiration, mycobacterial ab's, and 
respiratory viral panel.  UGI/BAS ordered but was not done on 
this admission as pt did not want to wait until after AFB's 
returned negative and she denied symptoms of aspiration.  Pt's 
leukocytosis improved from 22->10.5 with abx.  CT a/p was also 
obtained to r/o abdominal LAD given history of NHL and this was 
negative.  She will see Dr. ___ to f/u pending studies and 
to discuss timing of repeat CT chest to ensure resolution of 
consolidation/LAD

# HLD:  Continued home aspirin.  Statin restarted as LFT's 
improved on discharge (likely from infection per above)

# Depression: Continued home citalopram

# sCHF: LVEF 35%, recovered to 49% on TTE in ___.  Continued 
home lisinopril and metoprolol.  Appeared euvolemic on exam

Transitional:
============
[ ] Pt will need repeat CT chest in ___ weeks to evaluate for 
resolution of consolidation/LAD.  If not, per pulm, would 
consider EBUS LN bx.
[ ] F/u mycobacterial ab's and respiratory viral panel
[ ] Consider UGI/barium swallow to evaluate for aspiration given 
recurrent pna and bilateral GGO's seen on CT chest on admission.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN dyspnea, wheeze 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Multivitamins 1 TAB PO DAILY 
6. HYDROcodone-acetaminophen 7.5-325 mg oral TID:PRN 
7. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 
8. Aspirin 81 mg PO DAILY 
9. Citalopram 20 mg PO DAILY 
10. Chantix Starting Month Box (varenicline) 0.5 mg (11)- 1 mg 
(42) oral DAILY 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H Duration: 2 Days 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*2 Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour apply one patch daily 
Disp #*28 Patch Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
6.  Chantix Starting Month Box (varenicline) 0.5 mg (11)- 1 mg 
(42) oral DAILY  
7.  Citalopram 20 mg PO DAILY  
8.  HYDROcodone-acetaminophen 7.5-325 mg oral TID:PRN  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN dyspnea, wheeze  

10.  Lisinopril 10 mg PO DAILY  
11.  Metoprolol Succinate XL 50 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired pneumonia
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in for further work-up of cough and enlarged lymph 
nodes seen on your chest x-ray.  We did a CT scan of your chest 
which showed that you had a likely pneumonia.  We treated you 
with antibiotics and you improved.  We also got some sputum 
samples to work-up for TB and these were negative on discharge.

Please discuss with Dr. ___ the timing of a 
repeat CT scan of your chest to make sure the findings have 
resolved after treatment of you pneumonia.  We also think that 
it would be a good idea to get a swallowing study to look at 
your esophagus as issues with swallowing or food going getting 
stuck in your esophagus can lead to recurrent pneumonias.

Please return if you have recurrent cough, fevers/chills, 
shortness of breath, or if you have any other concerns.

It was a pleasure caring for you at ___ 
___.
 
Followup Instructions:
___